US08604108B2
A 500 ml five-neck flask equipped with gas inlet tube, thermometer, high-performance stirrer and reflux condenser with gas incineration is charged with 152 g (1 mol) of ethyl(3-hydroxypropyl)phosphinic acid (produced similarly to Example 13). Ethylene oxide is passed in at room temperature. A reaction temperature of 70° C. is set with cooling, followed by further reaction at 80° C. for 1 hour. The ethylene oxide takeup is 64.8 g. The acid number of the product is less than 1 mg KOH/g. 186 g (95% of theory) of 2-hydroxyethyl ethyl(3-hydroxy-propyl)phosphinate are obtained as colorless, water-clear liquid.

reactant | ethyl(3-hydroxypropyl)phosphinic acid | 1 mol, 152 g | C(C)P(O)(=O)CCCO | C5H13O3P
reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | KOH | less than 1 mg | [OH-].[K+]
solvent | water | O | H2O
product | 2-hydroxyethyl ethyl(3-hydroxy-propyl)phosphinate | 186 g, 95% | C(C)P(OCCO)(=O)CCCO | C7H17O4P
